US07482346B2
7.2. 2-(methylamino)-2-oxoethyl 4-[3-(3-bromophenyl)propyl]piperazine-1-carboxylate
A solution of 1.57 g (6.7 mmol) of 3-(3-bromophenyl)propan-1-ol, prepared in step 7.1., and 1.73 ml (10.1 mmol) of diisopropylethylamine in 38 ml of dichloromethane, cooled to 0° C., is admixed with 0.63 ml (8.14 mmol) of methanesulphonyl chloride. Stirring is continued in the cold for 0.5 hour and then at ambient temperature for 2 hours. The mixture is concentrated under reduced pressure and then the residue is suspended in 35 ml of acetonitrile. 1.34 g (5.35 mmol) of 2-(methylamino)-2-oxoethyl piperazine-1-carboxylate hydrochloride, prepared in accordance with Example 3.3., and 2.2 g (16 mmol) of potassium carbonate are added. The mixture is heated at 75° C. for 16 hours. After cooling to ambient temperature it is concentrated under reduced pressure and then the residue is taken up in water. It is extracted with ethyl acetate and dried over sodium sulphate. Following filtration, the organic phase is concentrated under reduced pressure. It is purified by chromatography on silica gel, eluting with a 98/2 mixture of dichloromethane and methanol. Crystallization from diisopropyl ether gives 0.84 g (2.10 mmol) of white crystals.

reactant | 3-(3-bromophenyl)propan-1-ol | 6.7 mmol, 1.57 g | BrC=1C=C(C=CC1)CCCO | C9H11BrO
reactant | diisopropylethylamine | 10.1 mmol, 1.73 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | methanesulphonyl chloride | 8.14 mmol, 0.63 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | 2-(methylamino)-2-oxoethyl piperazine-1-carboxylate hydrochloride | 5.35 mmol, 1.34 g | Cl.N1(CCNCC1)C(=O)OCC(=O)NC
reactant | potassium carbonate | 16 mmol, 2.2 g | C([O-])([O-])=O.[K+].[K+]
solvent | dichloromethane | 38 ml | ClCCl | CH2Cl2
product | 2-(methylamino)-2-oxoethyl 4-[3-(3-bromophenyl)propyl]piperazine-1-carboxylate | 2.10 mmol, 0.84 g | BrC=1C=C(C=CC1)CCCN1CCN(CC1)C(=O)OCC(=O)NC | C17H24BrN3O3
